US04078071
A solution of 1.00 g. of 1-(2-hydroxy-4-phenylbutyl) imidazole in 40 ml. of dichloromethane was treated with 1 ml. of thionyl chloride with stirring and the solution heated to gentle reflux for one hour. Evaporation to dryness afforded 1-(2-chloro-4-phenylbutyl) imidazole hydrochloride as a white solid.

reactant | 1-(2-hydroxy-4-phenylbutyl) imidazole | OC(CN1C=NC=C1)CCC1=CC=CC=C1 | C13H16N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-chloro-4-phenylbutyl) imidazole hydrochloride | Cl.ClC(CN1C=NC=C1)CCC1=CC=CC=C1 | InChI=1S/C13H15ClN2.ClH/c14-13(10-16-9-8-15-11-16)7-6-12-4-2-1-3-5-12;/h1-5,8-9,11,13H,6-7,10H2;1H
